US04375476
In a similar manner, (3-cyano-2,6-dimethylphenyl)methanol is reacted with other 3-(2-halo-3,3,3-trifluoropropenyl)-2,2-dimethylcyclopropanecarboxylic acid chlorides and others 3-(2,2-dihaloethenyl)-2,2-dimethylcyclopropanecarboxylic acid chlorides, or 2,2,3,3-tetramethylcyclopropanecarboxylic acid chloride to give other (3-cyano-2,6-dimethylphenyl)methyl 3-(2-halo-3,3,3-trifluoropropenyl)-2,2-dimethylcyclopropanecarboxylates and 3-(2,2-dihaloethenyl)-2,2-dimethylcyclopropanecarboxylates within the scope of this invention, or (3-cyano-2,6-dimethylphenyl)methyl 2,2,3,3-tetramethylcyclopropanecarboxylate, respectively.

reactant | (3-cyano-2,6-dimethylphenyl)methanol | C(#N)C=1C(=C(C(=CC1)C)CO)C | C10H11NO
reactant | 2,2,3,3-tetramethylcyclopropanecarboxylic acid chloride | CC1(C(C1(C)C)C(=O)Cl)C | C8H13ClO
product | (3-cyano-2,6-dimethylphenyl)methyl 2,2,3,3-tetramethylcyclopropanecarboxylate | CC1(C(C1(C)C)C(=O)OCC1=C(C(=CC=C1C)C#N)C)C | C18H23NO2
